US05399712
Hydrogen chloride was bubbled through a solution of 3 g (176 mmol) of 1-methylindole-3-acetonitrile and 8.28 g (88 mmol) of phenol in 70 ml of dry diethyl ether for 2 hours and the resulting solution was left to stand for 4 days. The solvent was removed under reduced pressure. The residual gum was triturated with diethyl ether to give 1.4 g (30%) of 1-methyl3-indoleacetimidate hydrochloride in the form of a purple solid of melting point 119° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-methylindole-3-acetonitrile | 176 mmol, 3 g | CN1C=C(C2=CC=CC=C12)CC#N | C11H10N2
reactant | phenol | 88 mmol, 8.28 g | C1(=CC=CC=C1)O | C6H6O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 1-methyl3-indoleacetimidate hydrochloride | 1.4 g, 30% | Cl.CN1C=C(C2=CC=CC=C12)CC(O)=N | InChI=1S/C11H12N2O.ClH/c1-13-7-8(6-11(12)14)9-4-2-3-5-10(9)13;/h2-5,7H,6H2,1H3,(H2,12,14);1H
